US08633175B2
Step 3: 5-{3-[(2-Chloroethyl)oxy]phenyl}-2-thiophenecarboxamide
5-(3-Hydroxyphenyl)-2-thiophenecarboxamide (0.31 g, 1.41 mmol), 2-chloroethyl p-toluenesulfonate (1.327 g, 5.65 mmol) and potassium carbonate (0.782 g, 5.65 mmol) in 20 ml of acetonitrile were heated to reflux for 15 h. The reaction mixture was concentrated in vacuo and purified by silica gel column chromatography (50 to 80% ethyl acetate in hexanes) to give the title compound as a white solid.

reactant | 5-(3-Hydroxyphenyl)-2-thiophenecarboxamide | 1.41 mmol, 0.31 g | OC=1C=C(C=CC1)C1=CC=C(S1)C(=O)N | C11H9NO2S
reactant | 2-chloroethyl p-toluenesulfonate | 5.65 mmol, 1.327 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCl)C | C9H11ClO3S
reactant | potassium carbonate | 5.65 mmol, 0.782 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-{3-[(2-Chloroethyl)oxy]phenyl}-2-thiophenecarboxamide | ClCCOC=1C=C(C=CC1)C1=CC=C(S1)C(=O)N | C13H12ClNO2S
